US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (267 mg, 1.0 mmol) was treated with isopropylamine (1.5 mmol) following general procedure B to afford 4-isopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (256 mg). 3-Ethyl-1-isopropyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (14 mg) was prepared from 4-isopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.10 mmol) and ethyl isocyanate (0.4 mmol) following general procedure C. LCMS: m/z 314 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 1.0 mmol, 267 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | isopropylamine | 1.5 mmol | C(C)(C)N | C3H9N
product | 4-isopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 256 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC(C)C)OC | C16H20N2O3
